### ISSUE TITLE
Notation + tactic: `code_of` / `unfold_code` — retire `CodeReq.singleton.union` chains

### ISSUE THREAD

**Issue by pirapira** [Verified-zkEVM/evm-asm#4796]
## Problem

There are **two** parallel ways to declare a basic-block `CodeReq` in this repo:

1. The intended new form: `CodeReq.ofProg base prog`, where `prog : List Instr` (introduced by Issue #35 / the `CodeReq.ofProg` infrastructure in `EvmAsm/Rv64/SepLogic.lean`).
2. The legacy form: nested `(CodeReq.singleton b₀ i₀).union ((CodeReq.singleton b₁ i₁).union (…))`.

Grep on `main`:

- **209** sites still use the legacy nested-`singleton.union` form.
- **28** sites prove `<hand-chain> = CodeReq.ofProg base prog` via a stereotyped `rw [CodeReq.ofProg_cons, CodeReq.ofProg_cons, …]; bv_addr` ritual to bridge the two forms.

Concrete example, `EvmAsm/Evm64/Exp/LimbSpec.lean:458-479`:

```lean
def exp_epilogue_code (base : Word) : CodeReq :=
  (CodeReq.singleton base (.LD .x5 .x2 0)).union
    ((CodeReq.singleton (base + 4) (.SD .x12 .x5 32)).union
      ((CodeReq.singleton (base + 8) (.LD .x5 .x2 8)).union
        …)))

theorem exp_epilogue_code_eq_ofProg (base : Word) :
    exp_epilogue_code base = CodeReq.ofProg base exp_epilogue := by
  unfold exp_epilogue_code exp_epilogue LD SD ADDI single seq
  change _ = CodeReq.ofProg base [.LD .x5 .x2 0, .SD .x12 .x5 32, …]
  rw [CodeReq.ofProg_cons, CodeReq.ofProg_cons, CodeReq.ofProg_cons,
      CodeReq.ofProg_cons, CodeReq.ofProg_cons, CodeReq.ofProg_cons,
      CodeReq.ofProg_cons, CodeReq.ofProg_cons, CodeReq.ofProg_singleton]
  bv_addr
```

This is pure mechanical glue. Every time an opcode's program changes length by one instruction, the union chain and the `_eq_ofProg` lemma both need re-derivation.

## Proposal

Two complementary pieces:

### Piece 1 — `code_of` notation

Standardize on a single declarator:

```lean
abbrev evm_add_code (base : Word) : CodeReq := code_of base evm_add
-- where `code_of base prog` is defeq to `CodeReq.ofProg base prog`,
-- with a sane simp-normal form that doesn't re-trigger unfolding.
```

This is the form `EvmAsm/Evm64/Add/Spec.lean:23-24` already uses (`CodeReq.ofProg base evm_add`) — but most legacy files still use the nested union chain. The notation is a stylistic alias to make the `OPCODE_TEMPLATE.md` rule explicit.

### Piece 2 — `unfold_code` tactic

A tactic that proves `<hand-written union chain> = CodeReq.ofProg base prog` in one step:

```lean
example : exp_epilogue_code base = CodeReq.ofProg base exp_epilogue := by
  unfold_code
```

Implementation: `simp only [CodeReq.ofProg_cons, CodeReq.ofProg_singleton, <local code def>, <local prog def>]`, then `rv64_addr` (the existing grindset) to discharge the trailing address-equality goal.

## Why it's cheap to build

Both pieces are one-shot wrappers around existing infrastructure. The tactic is ~30 lines (a `macro` over `simp only` + `rv64_addr`). The notation is one line. No new theorems needed.

## Acceptance

1. `code_of` notation added (probably in `EvmAsm/Rv64/SepLogic.lean` next to the `ofProg` definition, or in a new small file).
2. `unfold_code` tactic added (likely `EvmAsm/Rv64/Tactics/UnfoldCode.lean`).
3. Migrate the 9-instruction `exp_epilogue_code_eq_ofProg` (cited above) as proof-of-value — its proof drops from ~9 lines to `by unfold_code`.
4. Follow-up: sweep the remaining 27 `_eq_ofProg` sites in ≤3-file PRs.
5. Document in `OPCODE_TEMPLATE.md` that new opcodes should use `code_of` from day one (no hand-written union chain).

## Expected outcome

- ~150–200 LoC removed across `_eq_ofProg` bridge lemmas.
- Eliminates the "I changed program length and now my union chain is stale" maintenance burden.
- Unifies the two parallel `CodeReq` declarator styles to the single `ofProg`-based one.

## Out of scope

- Migrating the 209 internal union-chain sites that *don't* have a matching `_eq_ofProg` lemma is not required for this issue. Those can be swept opportunistically when their owning file is touched for other reasons.

---

— Claude Code
